US08008481B2
A mixture of 7-benzo[b]thiophen-2-yl-1H-indazole-5-yl-thiocarbamic acid methyl ester (Preparation #14, 25.0 mg, 0.074 mmol) and 2-pyridin-2-yl-ethylamine (23 mg, 0.185 mmol) in ethanol (2 mL) was stirred at about 50° C. for about 8 hours. The solvent was removed under reduced pressure and the product was purified by crystallization in ethanol to give 1-(7-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-3-(2-pyridin-2-yl-ethyl)-urea (12 mg, 39% yield); RP HPLC (Table 1, Method e) Rt=1.82 min; MS m/z: (M−H)− 412.

reactant | 7-benzo[b]thiophen-2-yl-1H-indazole-5-yl-thiocarbamic acid methyl ester | 0.074 mmol, 25.0 mg | COC(NC=1C=C2C=NNC2=C(C1)C1=CC2=C(S1)C=CC=C2)=S | C17H13N3OS2
reactant | 2-pyridin-2-yl-ethylamine | 0.185 mmol, 23 mg | N1=C(C=CC=C1)CCN | C7H10N2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(7-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-3-(2-pyridin-2-yl-ethyl)-urea | 12 mg, 39% yield | S1C2=C(C=C1C=1C=C(C=C3C=NNC13)NC(=O)NCCC1=NC=CC=C1)C=CC=C2 | C23H19N5OS
